US05698570
Synthesis of (2-cyano-ethylamino)acetic acid ethyl ester
139.6 g (1 mole) of glycine ethyl ester hydrochloride was dissolved in 80 ml of distilled water and to this solution was added 230 ml of an aqueous solution of 67.3 g (1.2 mole eq.) of potassium hydroxide. Then, 106.2 g (2 mole eq.) of acrylonitrile was added to the reaction solution while heating and stirring at 50° to 60° C. The reaction mixture was stirred for 5 hours with heating and then the organic layer was separated. The aqueous layer was extracted with ethyl ether and the extract was combined with the organic layer as separated above. The combined organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to remove the solvent. The residue was distilled under reduced pressure (100° to 150° C./10.25 torr) to obtain 65.6 g (Yield: 48%) of the title compound.

reactant | glycine ethyl ester hydrochloride | 1 mole, 139.6 g | Cl.C(C)OC(CN)=O
reactant | potassium hydroxide | 1.2 mole, 67.3 g | [OH-].[K+]
reactant | acrylonitrile | 2 mole, 106.2 g | C(C=C)#N | C3H3N
solvent | water | 80 ml | O | H2O
product | (2-cyano-ethylamino)acetic acid ethyl ester | 65.6 g, Yield: 48% | C(C)OC(CNCCC#N)=O | C7H12N2O2
